US07576135B2
2-(4-chloro-2-fluoroanilino)acetic acid ethyl ester
In a manner similar to that employed in Referential Example 267, the title compound was prepared from 4-chloro-2-fluoroaniline and bromoethyl acetate.

reactant | 4-chloro-2-fluoroaniline | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | bromoethyl acetate | C(C)(=O)OCCBr | C4H7BrO2
product | 2-(4-chloro-2-fluoroanilino)acetic acid ethyl ester | C(C)OC(CNC1=C(C=C(C=C1)Cl)F)=O | C10H11ClFNO2
